US08912221B2
Step B: 5-(2-Bromo-4-chloro-6-fluoro-phenyl)-2H-tetrazole
A mixture of 2-bromo-4-chloro-6-fluoro-benzonitrile (4 g, 17.06 mmol) and azidotrimethyltin (3.86 g, 18.77 mmol) in toluene (100 ml) was heated to 120° C. for 72 h. After completion of the reaction, the mixture was partitioned between EtOAc (50 ml) and aqueous 0.5N HCl solution (40 ml). The organic layer was separated, washed with water and brine, dried with Na2SO4 and concentrated under reduced pressure to afford the title compound as red solid (4.2 g, 87%).

reactant | 2-bromo-4-chloro-6-fluoro-benzonitrile | 17.06 mmol, 4 g | BrC1=C(C#N)C(=CC(=C1)Cl)F | C7H2BrClFN
reactant | azidotrimethyltin | 18.77 mmol, 3.86 g | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Bromo-4-chloro-6-fluoro-phenyl)-2H-tetrazole | 4.2 g, 87% | BrC1=C(C(=CC(=C1)Cl)F)C=1N=NNN1 | C7H3BrClFN4
